US07687491B2
(9a) 4-[(Trimethylsilyl)ethynyl]thiophene-2-carboxaldehyde
To a solution of 4-bromo-2-thiophenecarboxaldehyde (3.0 g, 16 mmol) in N,N-dimethylformamide (30 ml) were added successively (trimethylsilyl)acetylene (11 ml, 79 mmol), triethylamine (13 ml, 94 mmol), and dichlorobis(triphenylphosphine)palladium (1.1 g, 1.6 mmol) under a nitrogen atmosphere with stirring, and the resulting mixture was stirred at 80° C. for 2 hours under a nitrogen atmosphere. After stirring, the reaction mixture was diluted with ethyl acetate, poured into a saturated aqueous solution of ammonium chloride (250 ml) and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:1 to 1:19) as the eluent to afford the title compound (3.3 g) in a yield of 100% as a brown oily product.

reactant | 4-bromo-2-thiophenecarboxaldehyde | 16 mmol, 3.0 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | (trimethylsilyl)acetylene | 79 mmol, 11 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 94 mmol, 13 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 1.6 mmol, 1.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[(Trimethylsilyl)ethynyl]thiophene-2-carboxaldehyde | yield of 100% | C[Si](C)(C)C#CC=1C=C(SC1)C=O | C10H12OSSi
